US07915250B2
To a solution of phenylmethyl 3-hydroxyazetidine-1-carboxylate (3.5 g, 0.0168 mol) in dichloromethane (100 mL) was added Dess-Martin periodinane (10.7 g, 0.0.25 mol) at room temperature and stirred for 5 h. The reaction mixture was quenched with 1:1 ratio of saturated aqueous sodium bicarbonate and 1M sodium thiosulfate (200 mL) and then partitioned with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo to afford phenylmethyl 3-oxoazetidine-1-carboxylate (3.43 g, 99% yield) as a clear and colorless oil without further purification. 1H NMR (400 MHz, CDCl3): 7.39-7.31 (m, 5H), 5.17 (s, 2H), 4.77 (s, 4H). MS (EI) for C11H11NO3:205 (M+).

reactant | phenylmethyl 3-hydroxyazetidine-1-carboxylate | 0.0168 mol, 3.5 g | OC1CN(C1)C(=O)OCC1=CC=CC=C1 | C11H13NO3
reactant | Dess-Martin periodinane | 10.7 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | phenylmethyl 3-oxoazetidine-1-carboxylate | 3.43 g, 99% yield | O=C1CN(C1)C(=O)OCC1=CC=CC=C1 | C11H11NO3
